US08252820B2
H. (Z)-7-[4-Benzyloxy-2-fluoro-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-2,2-dimethylhept-6-enenitrile
A mixture of 5-(6-benzyloxy-3-bromo-2-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (1.0 g, 2.4 mmol), 2,2-dimethylhept-6-enenitrile (493 mg, 3.6 mmol), Pd(OAc)2 (108 mg, 0.48 mmol), triethylamine (1.67 mL, 12 mmol) and 2-(di-t-butylphosphino)biphenyl (286 mg, 0.96 mmol) in acetonitrile (15 mL) is stirred in a microwave apparatus at 100° C. for 10 min. It is then filtered and the solvent is removed to give the title compound as a red liquid. The material is used in the next step without purification.

reactant | 5-(6-benzyloxy-3-bromo-2-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 2.4 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1N1CC(NS1(=O)=O)=O)F)Br | C15H12BrFN2O4S
reactant | 2,2-dimethylhept-6-enenitrile | 3.6 mmol, 493 mg | CC(C#N)(CCCC=C)C | C9H15N
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(di-t-butylphosphino)biphenyl | 0.96 mmol, 286 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.48 mmol, 108 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (Z)-7-[4-Benzyloxy-2-fluoro-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-2,2-dimethylhept-6-enenitrile | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)\C=C/CCCC(C#N)(C)C)F)N1S(NC(C1)=O)(=O)=O | C24H26FN3O4S
